* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5209.asc
* Generated by LTspice 24.1.9 for Windows.
V3 vS1A 0 8
V4 vS2A 0 9
V5 vS3A 0 10
V6 vS4A 0 11
V7 vA0 0 5
V8 vA1 0 5
V12 N001 0 15
V13 N002 0 -15
V14 vEN 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 vDA 0 301
C1 N001 0 0.1µ
C2 N002 0 0.1µ
C3 vDA 0 36p
R2 vDB 0 301
C4 vDB 0 36p
V1 vS1B 0 8
V2 vS2B 0 9
V9 vS3B 0 10
V10 vS4B 0 11
X§U1 N001 vA0 vA1 vEN N002 0 vS1A vS2A vS3A vS4A vDA vS1B vS2B vS3B vS4B vDB ADG5209
.tran 100u
* Note:\nSwitch shown for a logic 0 input
.lib ADG5209.sub
.backanno
.end
